US08314253B2
1.3 rac-(1R*,8S*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6,9-tetraene
To a solution of 27.9 g of tricyclo[6.2.2.02,7]dodeca-4,9-diene-3,6-diol in 165 mL of pyridine were portionwise added 30 mL of POCl3 at 0° C. The reaction was stirred for 3 days at rt before it was quenched by careful addition of ice under cooling. The resulting mixture was extracted with Hept (4×50 mL). The combined organic phases were washed with H2O, 15% HCl solution and again with H2O. The organic phase was dried over MgSO4 and concentrated in vacuo to obtain 10.6 g of the desired compound as yellow oil.

reactant | tricyclo[6.2.2.02,7]dodeca-4,9-diene-3,6-diol | 27.9 g | C12C3C(C=CC(C3C(C=C1)CC2)O)O | C12H16O2
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 165 mL | N1=CC=CC=C1 | C5H5N
product | rac-(1R*,8S*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6,9-tetraene | 10.6 g | C12C3=CC=CC=C3C(C=C1)CC2 | C12H12
